* Z:\home\bartosz\Documents\projekty\arm\pulsar\simulation\StepUpDown.asc
M1 N001 0 INPUT INPUT FDS4559_P
R1 INPUT 0 1k
D1 0 N001 D
L1 N001 N002 33µ Rser=36m
M2 N002 LSW 0 0 IRFZ44N
D2 N002 OUTPUT D
C1 OUTPUT 0 100µ Rser=10m
R2 LSW 0 1k
C2 INPUT 0 100µ Rser=100m
V1 INPUT 0 5
V2 NC_01 NC_02 PULSE(0 10 0 0 0 1400ns 2000ns)
R3 OUTPUT 0 5
V3 LSW 0 PULSE(0 10 0 0 0 1500ns 2000ns)
C3 OUTPUT 0 10µ Rser=10m
.model D D
.lib C:\users\bartosz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\bartosz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 5m 0 10m startup
.backanno
.end
